US04125612
To a stirred suspension of 238 g of 1-(4'-chloro[1,1']biphenyl-4-yl)ethanol in 2 liters of anhydrous benzene add 200 ml. of thionyl chloride over 40 minutes. With stirring, reflux the reaction mixture for 4 hours. Concentrate the reaction mixture and dissolve the resulting solid residue in 2 liters of methylene chloride. Wash the methylene chloride solution with three 500 ml portions of water, dry the resulting solution over sodium sulfate, concentrate, and triturate the solid residue with petroleum ether to yield 4'-chloro-4-(1-chloroethyl)[1,1']-biphenyl m.p. 100°-102° C.

reactant | 1-(4'-chloro[1,1']biphenyl-4-yl)ethanol | 238 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)O | C14H13ClO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 2 liters | C1=CC=CC=C1 | C6H6
product | 4'-chloro-4-(1-chloroethyl)[1,1']-biphenyl | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)Cl | C14H12Cl2
